US06391874B1
(4-Benzyloxy-phenyl)-(6-(3-methyl-3H-imidazol-4-yl)quinazolin-4-yl)-amine
The (4-benzyloxy-phenyl)-(6-bromoquinazolin-4-yl)-amine (1.0 g, 2.46 mmol), 1-methyl-5-(tributylstannyl)imidazole (prepared according to Gaare, K., et al. Acta Chem. Scand. (1993), 47(1), 57-62) (1.25 g, 3.37 mmol) and bis(triphenylphosphine)palladium(II) chloride (catalytic amount) were reacted according to Procedure B in dioxane (50 ml) for 3 hours. The solvent was removed in vacuo, and the solid was washed with i-hexane. The resulting dark solid was suspended in IMS, and undissolved material removed by filtration. The resulting filtrate was concentrated in vacuo to give the product as a pale baige solid (0.90 g, 2.21 mmol, 90%);_δH [2H6]-DMSO 9.69 (1H, b, NH), 8.60 (1H, s, 5-H), 8.55 (1H, s, 2-H), 8.00 (1H, d, 7-H), 7.83 (2H, m, 8-H, imidazole-H), 7.69 (2H, d, 2′-H, 6′-H), 7.52-7.33 (5H, m, 5×Ph-H), 7.22 (1H, s, imidazole-H), 7.09 (2H, d, 3′-H, 5′-H), 5.14 (2H, s, CH2), 3.80 (3H, s, CH3); m/z 408 (M+1)+.

reactant | (4-benzyloxy-phenyl)-(6-bromoquinazolin-4-yl)-amine | 2.46 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)Br | C21H16BrN3O
reactant | 1-methyl-5-(tributylstannyl)imidazole | 3.37 mmol, 1.25 g | CN1C=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-Benzyloxy-phenyl)-(6-(3-methyl-3H-imidazol-4-yl)quinazolin-4-yl)-amine | 2.21 mmol, 0.90 g, 90% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1N(C=NC1)C | C25H21N5O
